US08058045B2
Triethylamine (15 μL, 0.11 mmol) and ethylsulfonylchloride (8 μL, 0.78 mmol) were added to a stirred solution of tert-butyl 4-((5-amino-2-(5-cyanopyrazin-2-ylamino)-pyridin-4-ylamino)-methyl)-piperidine-1-carboxylate (30.3 mg, 0.071 mmol) in DMF (1 mL) at 0° C. After 1.5 hours at room temperature, further ethylsulfonylchloride (5.5 μL, 0.53 mmol) and triethylamine (7.5 μL, 0.53 mmol) were added. After 1 hour the reaction mixture was partitioned between dichloromethane and water. The aqueous phase was extracted with dichloromethane. The combined organic phases were dried (Na2SO4) and concentrated. Preparative HPLC gave N-(6-(5-cyanopyrazin-2-ylamino)-4-(1-Boc-piperidin-4-ylmethylamino)pyridin-3-yl)ethanesulfonamide as a solid. The material was dissolved in 20% trifluoroacetic acid in dichloromethane. After 20 minutes the mixture was loaded onto a MP-TsOH SPE cartridge and eluted with 2M ammonia in methanol. The basic fractions were combined to give N-(6-(5-cyanopyrazin-2-ylamino)-4-(piperidin-4-ylmethylamino)pyridin-3-yl)ethanesulfonamide (2.28 mg, 8%).

reactant | Triethylamine | 0.11 mmol, 15 μL | C(C)N(CC)CC | C6H15N
reactant | ethylsulfonylchloride | 0.78 mmol, 8 μL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | tert-butyl 4-((5-amino-2-(5-cyanopyrazin-2-ylamino)-pyridin-4-ylamino)-methyl)-piperidine-1-carboxylate | 0.071 mmol, 30.3 mg | NC=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)NCC1CCN(CC1)C(=O)OC(C)(C)C | C21H28N8O2
reactant | ethylsulfonylchloride | 0.53 mmol, 5.5 μL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | triethylamine | 0.53 mmol, 7.5 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(6-(5-cyanopyrazin-2-ylamino)-4-(1-Boc-piperidin-4-ylmethylamino)pyridin-3-yl)ethanesulfonamide | C(#N)C=1N=CC(=NC1)NC1=CC(=C(C=N1)NS(=O)(=O)CC)NCC1CCN(CC1)C(=O)OC(C)(C)C | C23H32N8O4S
